US04439229
A solution of 9.1 g (0.06 mole) of 3,4,5,6-tetrahydrophilic anhydride and 11.1 g (0.06 mole) of methyl 2-chloro-5-aminobenzoate dissolved in glacial acetic acid (30 ml.) is vigorously refluxed for one hour. The reaction mixture is cooled to room temperature and the crude product is collected by filtration, washed with water and then dried to afford 14.9 g of N-[3-methoxycarbonyl-4-chlorophenyl]-3,4,5,6-tetrahydrophthalimide m.p. 113°-115° C.

reactant | methyl 2-chloro-5-aminobenzoate | 0.06 mole, 11.1 g | ClC1=C(C(=O)OC)C=C(C=C1)N | C8H8ClNO2
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | N-[3-methoxycarbonyl-4-chlorophenyl]-3,4,5,6-tetrahydrophthalimide | 14.9 g | COC(=O)C=1C=C(C=CC1Cl)N1C(C2=C(C1=O)CCCC2)=O | C16H14ClNO4
